US04439448
In 150 ml of ethanol was dissolved 37.18 g (0.12 mole) of diethyl 2-ethyl-2-(4-nitrophenyl)malonate and a solution of 30.41 g (0.76 mole) of sodium hydroxide in 100 ml of water was added and then heated under reflux for 3 hours on an oil bath. After the solvent was distilled off in vacuo, the residue was dissolved in 200 ml of water and then extracted with 300 ml of ether. The ether layer was removed and the water layer was acidified with conc. hydrochloric acid and extracted again with ether. The ether layer was separated, washed with saturated sodium chloride solution and dried over magnesium sulfate. The ether was distilled off in vacuo to give 17.25 g (0.083 mole, 69% yield) of 2-(4-nitrophenyl)-n-butyric acid.

reactant | diethyl 2-ethyl-2-(4-nitrophenyl)malonate | 0.12 mole, 37.18 g | C(C)C(C(=O)OCC)(C(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-] | C15H19NO6
reactant | sodium hydroxide | 0.76 mole, 30.41 g | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 2-(4-nitrophenyl)-n-butyric acid | 0.083 mole, 17.25 g, 69% yield | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)O)CC | C10H11NO4
